US08603975B2
To a solution of 4-benzyl-2,2-bis(methoxymethyl)morpholine (6 g) and conc HCl (2.41 ml) in MeOH (60 ml) was added 20% palladium hydroxide on charcoal (1.2 g), and the whole was stirred for 2 hours at room temperature under hydrogen (2.0 atm). The catalyst was filtered off, and the filtrate was concentrated under reduced pressure to give 2,2-bis(methoxymethyl)morpholine hydrochloride (3.6 g). The obtained HCl salt was diluted with CH2Cl2 and washed with 1N—NaOH. The organic phase was concentrated under reduced pressure to give gave free form, which was used for next reaction.

reactant | 4-benzyl-2,2-bis(methoxymethyl)morpholine | 6 g | C(C1=CC=CC=C1)N1CC(OCC1)(COC)COC | C15H23NO3
reactant | HCl | 2.41 ml | Cl | ClH
solvent | MeOH | 60 ml | CO | CH4O
catalyst | palladium hydroxide on charcoal | 1.2 g | [OH-].[OH-].[Pd+2]
product | 2,2-bis(methoxymethyl)morpholine hydrochloride | 3.6 g | Cl.COCC1(CNCCO1)COC | InChI=1S/C8H17NO3.ClH/c1-10-6-8(7-11-2)5-9-3-4-12-8;/h9H,3-7H2,1-2H3;1H
